* File: G4_MAJ3_N1.pex.netlist.pex
* Created: Wed Mar  2 17:07:12 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_MAJ3_N1_VDD 2 4 7 11 27 28 31 32 51 52 54 56 57 61 65 67 68 71 75
+ 78 79 80 90 95 Vss
c80 95 Vss 0.00471931f
c81 90 Vss 0.00455939f
c82 80 Vss 3.56526e-19
c83 79 Vss 3.56526e-19
c84 75 Vss 3.84406e-19
c85 71 Vss 9.33011e-19
c86 68 Vss 8.63529e-19
c87 67 Vss 0.00539264f
c88 65 Vss 0.00133146f
c89 61 Vss 0.00133512f
c90 57 Vss 0.00563423f
c91 56 Vss 0.0019972f
c92 54 Vss 0.00437281f
c93 52 Vss 0.00204371f
c94 51 Vss 8.63529e-19
c95 32 Vss 0.0336444f
c96 31 Vss 0.0988545f
c97 28 Vss 0.0346129f
c98 27 Vss 0.0990038f
c99 11 Vss 0.165071f
c100 7 Vss 0.165416f
c101 4 Vss 0.00207958f
c102 2 Vss 0.0026194f
r103 75 95 1.16709
r104 73 75 2.16729
r105 71 90 1.16709
r106 69 71 2.16729
r107 67 73 0.652036
r108 67 68 10.1279
r109 63 80 0.0828784
r110 63 65 1.82344
r111 59 79 0.0828784
r112 59 61 1.82344
r113 58 78 0.326018
r114 57 69 0.652036
r115 57 58 10.1279
r116 56 68 0.652036
r117 55 80 0.551426
r118 55 56 4.16786
r119 54 80 0.551426
r120 53 79 0.551426
r121 53 54 7.83557
r122 52 79 0.551426
r123 51 78 0.326018
r124 51 52 4.16786
r125 34 95 0.238214
r126 32 34 1.45875
r127 31 38 0.652036
r128 31 34 1.45875
r129 30 90 0.238214
r130 28 30 1.45875
r131 27 35 0.652036
r132 27 30 1.45875
r133 24 32 0.652036
r134 21 28 0.652036
r135 11 38 2.5674
r136 11 24 2.5674
r137 7 35 2.5674
r138 7 21 2.5674
r139 4 65 1.16709
r140 2 61 1.16709
.ends

.subckt PM_G4_MAJ3_N1_VSS 3 7 10 12 27 28 31 32 34 52 57 62 67 70 73 78 91 92 93
+ 94 95 104 114 115 117 Vss
c89 115 Vss 3.75522e-19
c90 114 Vss 3.75522e-19
c91 110 Vss 0.00127887f
c92 104 Vss 0.00344356f
c93 95 Vss 8.24051e-19
c94 94 Vss 0.00149351f
c95 93 Vss 8.24051e-19
c96 92 Vss 0.00149351f
c97 91 Vss 0.00617495f
c98 78 Vss 0.00390682f
c99 73 Vss 0.00498746f
c100 70 Vss 0.00347745f
c101 67 Vss 0.00294127f
c102 62 Vss 0.00184732f
c103 57 Vss 0.00132425f
c104 52 Vss 0.00115907f
c105 32 Vss 0.033157f
c106 31 Vss 0.0974849f
c107 28 Vss 0.0341879f
c108 27 Vss 0.0984533f
c109 12 Vss 0.00257143f
c110 10 Vss 0.00203161f
c111 7 Vss 0.166925f
c112 3 Vss 0.166819f
r113 110 117 0.326018
r114 106 115 0.494161
r115 105 114 0.494161
r116 104 117 0.326018
r117 104 105 7.46046
r118 100 115 0.128424
r119 96 114 0.128424
r120 94 115 0.494161
r121 94 95 4.37625
r122 92 114 0.494161
r123 92 93 4.37625
r124 91 95 0.652036
r125 90 93 0.652036
r126 90 91 18.8387
r127 70 106 8.04396
r128 67 70 5.41821
r129 62 110 4.83471
r130 57 78 1.16709
r131 57 100 2.16729
r132 52 73 1.16709
r133 52 96 2.16729
r134 34 78 0.238214
r135 32 34 1.45875
r136 31 38 0.652036
r137 31 34 1.45875
r138 30 73 0.238214
r139 28 30 1.45875
r140 27 35 0.652036
r141 27 30 1.45875
r142 24 32 0.652036
r143 21 28 0.652036
r144 12 67 1.16709
r145 10 62 1.16709
r146 7 38 2.5674
r147 7 24 2.5674
r148 3 35 2.5674
r149 3 21 2.5674
.ends

.subckt PM_G4_MAJ3_N1_A 2 4 6 8 11 15 29 32 53 57 69 72 74 77 79 81 82 85 87 90
+ 98 107 Vss
c80 110 Vss 1.14262e-19
c81 107 Vss 0.00533929f
c82 98 Vss 0.00481087f
c83 94 Vss 7.48717e-19
c84 87 Vss 6.11441e-19
c85 85 Vss 8.50217e-19
c86 82 Vss 4.65536e-19
c87 81 Vss 0.00274588f
c88 79 Vss 0.00488819f
c89 77 Vss 8.85587e-19
c90 74 Vss 0.00117147f
c91 73 Vss 0.00146569f
c92 72 Vss 0.00379017f
c93 69 Vss 0.00539132f
c94 57 Vss 0.135015f
c95 53 Vss 0.128028f
c96 32 Vss 0.2139f
c97 29 Vss 0.0749894f
c98 27 Vss 0.0247918f
c99 11 Vss 1.01176f
c100 8 Vss 0.00236553f
c101 6 Vss 0.00271742f
c102 4 Vss 0.0850321f
r103 107 110 0.1
r104 96 107 1.16709
r105 92 98 1.16709
r106 90 92 0.166714
r107 87 90 0.166714
r108 83 85 2.16729
r109 82 96 0.531835
r110 81 83 0.652036
r111 81 82 1.70882
r112 80 94 0.494161
r113 79 96 0.531835
r114 79 80 7.46046
r115 75 94 0.128424
r116 75 77 2.16729
r117 73 94 0.494161
r118 73 74 1.83386
r119 71 74 0.652036
r120 71 72 8.00229
r121 70 87 0.0685365
r122 69 72 0.652036
r123 69 70 10.2113
r124 55 57 4.53833
r125 52 110 0.262036
r126 52 53 2.26917
r127 49 52 2.26917
r128 44 57 0.00605528
r129 43 53 0.00605528
r130 40 55 0.00605528
r131 39 49 0.00605528
r132 35 98 0.0952857
r133 33 35 0.326018
r134 33 35 0.1167
r135 32 36 0.652036
r136 32 35 6.7686
r137 29 35 0.3335
r138 27 35 0.326018
r139 27 29 0.2334
r140 15 44 2.5674
r141 15 40 2.5674
r142 11 15 12.837
r143 11 43 2.5674
r144 11 15 12.837
r145 11 39 2.5674
r146 8 85 1.16709
r147 6 77 1.16709
r148 4 36 2.5674
r149 2 29 2.334
.ends

.subckt PM_G4_MAJ3_N1_BI 2 6 8 21 32 37 42 52 57 66 72 73 Vss
c61 73 Vss 3.33918e-19
c62 72 Vss 7.31231e-19
c63 66 Vss 0.00174781f
c64 57 Vss 0.00147766f
c65 52 Vss 0.00140496f
c66 42 Vss 0.0015273f
c67 37 Vss 0.00542097f
c68 32 Vss 0.00210957f
c69 21 Vss 0.0573997f
c70 6 Vss 0.0573997f
c71 2 Vss 0.0015046f
r72 72 73 0.65228
r73 71 72 3.42052
r74 66 71 0.65409
r75 42 57 1.16709
r76 42 73 2.1395
r77 37 52 1.16709
r78 37 77 12.0712
r79 37 66 1.96931
r80 32 49 1.16709
r81 32 77 2.08393
r82 21 57 0.50025
r83 18 52 0.50025
r84 8 21 1.80885
r85 6 18 1.80885
r86 2 49 0.1
.ends

.subckt PM_G4_MAJ3_N1_AI 2 7 11 31 37 46 51 60 69 Vss
c47 69 Vss 2.51637e-19
c48 60 Vss 0.00575758f
c49 51 Vss 0.00577434f
c50 46 Vss 9.64269e-19
c51 37 Vss 0.127837f
c52 36 Vss 1.23462e-19
c53 31 Vss 0.133405f
c54 7 Vss 1.0035f
c55 2 Vss 0.0015046f
r56 65 69 0.652036
r57 60 63 0.1
r58 51 63 1.16709
r59 51 69 13.7539
r60 46 65 2.16729
r61 36 60 0.262036
r62 36 37 2.334
r63 33 36 2.20433
r64 29 31 4.53833
r65 26 37 0.00605528
r66 25 31 0.00605528
r67 22 33 0.00605528
r68 21 29 0.00605528
r69 11 26 2.5674
r70 11 22 2.5674
r71 7 11 12.837
r72 7 25 2.5674
r73 7 11 12.837
r74 7 21 2.5674
r75 2 46 1.16709
.ends

.subckt PM_G4_MAJ3_N1_B 2 4 6 8 16 17 26 38 42 45 50 55 60 65 73 74 80 87 92 93
+ Vss
c73 93 Vss 4.59352e-19
c74 92 Vss 0.00214833f
c75 87 Vss 7.9499e-19
c76 80 Vss 8.69209e-19
c77 74 Vss 2.46868e-19
c78 73 Vss 0.00310209f
c79 65 Vss 0.00148695f
c80 60 Vss 0.00103393f
c81 55 Vss 0.004462f
c82 50 Vss 0.00190521f
c83 45 Vss 8.22554e-19
c84 38 Vss 0.00131454f
c85 26 Vss 0.0573997f
c86 20 Vss 0.0247918f
c87 17 Vss 0.0343999f
c88 16 Vss 0.183114f
c89 8 Vss 0.0573997f
c90 4 Vss 0.0714013f
c91 2 Vss 0.0847975f
r92 91 93 0.65228
r93 91 92 3.46076
r94 87 92 0.65228
r95 83 87 2.1006
r96 80 83 2.04225
r97 73 80 0.0685365
r98 73 74 10.3363
r99 69 74 0.652036
r100 50 65 1.16709
r101 50 93 2.1395
r102 45 60 1.16709
r103 45 83 0.0416786
r104 38 55 1.16709
r105 38 69 2.16729
r106 38 42 0.0833571
r107 36 55 0.0476429
r108 33 65 0.50025
r109 26 60 0.50025
r110 24 55 0.357321
r111 20 36 0.326018
r112 20 24 0.40845
r113 17 36 6.7686
r114 16 36 0.326018
r115 16 36 0.1167
r116 13 17 0.652036
r117 8 33 1.80885
r118 6 26 1.80885
r119 4 24 2.15895
r120 2 13 2.5674
.ends

.subckt PM_G4_MAJ3_N1_C 2 4 20 25 50 54 57 Vss
c27 57 Vss 0.00412628f
c28 54 Vss 7.72795e-19
c29 25 Vss 0.00139119f
c30 20 Vss 6.60907e-19
c31 4 Vss 0.00277614f
c32 2 Vss 0.00222834f
r33 50 57 1.08364
r34 50 54 9.25264
r35 25 57 0.521797
r36 20 54 0.521797
r37 4 25 1.16709
r38 2 20 1.16709
.ends

.subckt PM_G4_MAJ3_N1_Z 2 4 30 33 Vss
c33 30 Vss 0.00258707f
c34 4 Vss 0.00153036f
c35 2 Vss 0.00148239f
r36 33 35 4.50129
r37 30 33 4.668
r38 4 35 1.16709
r39 2 30 1.16709
.ends

