* File: G4_MAJ3_N2.pex.netlist.pex
* Created: Fri Mar  4 11:26:54 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_MAJ3_N2_VDD 2 4 7 11 27 28 30 31 32 44 48 52 54 56 57 58 61 63 67
+ 69 70 73 77 79 80 90 95 Vss
c77 95 Vss 0.00486523f
c78 90 Vss 0.00461066f
c79 80 Vss 4.52364e-19
c80 79 Vss 4.28405e-19
c81 77 Vss 4.66438e-19
c82 73 Vss 8.57616e-19
c83 70 Vss 8.64091e-19
c84 69 Vss 0.00558016f
c85 67 Vss 0.00139758f
c86 63 Vss 0.00140124f
c87 58 Vss 8.64091e-19
c88 57 Vss 0.00559492f
c89 56 Vss 0.00209681f
c90 54 Vss 0.00571364f
c91 52 Vss 0.00207954f
c92 48 Vss 0.00382489f
c93 44 Vss 0.00532438f
c94 32 Vss 0.035607f
c95 31 Vss 0.100823f
c96 28 Vss 0.035607f
c97 27 Vss 0.100961f
c98 11 Vss 0.266772f
c99 7 Vss 0.268336f
r100 77 95 1.16709
r101 75 77 2.16729
r102 73 90 1.16709
r103 71 73 2.16729
r104 69 75 0.652036
r105 69 70 10.1279
r106 65 80 0.0828784
r107 65 67 1.82344
r108 61 63 1.167
r109 59 79 0.0828784
r110 59 61 0.656438
r111 57 71 0.652036
r112 57 58 10.1279
r113 56 70 0.652036
r114 55 80 0.551426
r115 55 56 4.58464
r116 54 80 0.551426
r117 53 79 0.551426
r118 53 54 9.66943
r119 52 79 0.551426
r120 51 58 0.652036
r121 51 52 4.58464
r122 48 67 1.16709
r123 44 63 1.16709
r124 34 95 0.0476429
r125 32 34 1.45875
r126 31 38 0.652036
r127 31 34 1.45875
r128 30 90 0.0476429
r129 28 30 1.45875
r130 27 35 0.652036
r131 27 30 1.45875
r132 24 32 0.652036
r133 21 28 0.652036
r134 11 38 3.8511
r135 11 24 3.8511
r136 7 35 3.8511
r137 7 21 3.8511
r138 4 48 0.185659
r139 2 44 0.185659
.ends

.subckt PM_G4_MAJ3_N2_VSS 3 7 10 12 27 28 30 31 32 45 49 52 57 62 67 70 73 78 91
+ 92 93 94 95 104 114 115 117 Vss
c83 115 Vss 3.75522e-19
c84 114 Vss 3.75522e-19
c85 110 Vss 0.00128107f
c86 104 Vss 0.00335813f
c87 95 Vss 8.27105e-19
c88 94 Vss 0.00156442f
c89 93 Vss 8.27105e-19
c90 92 Vss 0.00156442f
c91 91 Vss 0.00686995f
c92 78 Vss 0.00393332f
c93 73 Vss 0.00431768f
c94 70 Vss 0.00351391f
c95 67 Vss 0.00277973f
c96 62 Vss 0.00186148f
c97 57 Vss 0.00131291f
c98 52 Vss 0.00112626f
c99 49 Vss 0.00527641f
c100 45 Vss 0.00377692f
c101 32 Vss 0.0350852f
c102 31 Vss 0.0994129f
c103 30 Vss 9.50876e-20
c104 28 Vss 0.0350852f
c105 27 Vss 0.0994129f
c106 7 Vss 0.267138f
c107 3 Vss 0.268863f
r108 110 117 0.326018
r109 106 115 0.494161
r110 105 114 0.494161
r111 104 117 0.326018
r112 104 105 7.46046
r113 100 115 0.128424
r114 96 114 0.128424
r115 94 115 0.494161
r116 94 95 4.37625
r117 92 114 0.494161
r118 92 93 4.37625
r119 91 95 0.652036
r120 90 93 0.652036
r121 90 91 21.5061
r122 70 106 8.04396
r123 67 70 5.835
r124 62 110 5.2515
r125 57 78 1.16709
r126 57 100 2.16729
r127 52 73 1.16709
r128 52 96 2.16729
r129 49 67 1.16709
r130 45 62 1.16709
r131 34 78 0.0476429
r132 32 34 1.45875
r133 31 38 0.652036
r134 31 34 1.45875
r135 30 73 0.0476429
r136 28 30 1.45875
r137 27 35 0.652036
r138 27 30 1.45875
r139 24 32 0.652036
r140 21 28 0.652036
r141 12 49 0.185659
r142 10 45 0.185659
r143 7 38 3.8511
r144 7 24 3.8511
r145 3 35 3.8511
r146 3 21 3.8511
.ends

.subckt PM_G4_MAJ3_N2_A 1 2 4 6 9 13 31 53 57 62 67 71 74 76 78 81 89 91 99 100
+ 102 111 Vss
c78 111 Vss 0.00528881f
c79 102 Vss 0.00500597f
c80 99 Vss 0.00422425f
c81 96 Vss 7.53731e-19
c82 91 Vss 7.84512e-19
c83 89 Vss 8.92851e-19
c84 85 Vss 0.00253152f
c85 81 Vss 7.20282e-19
c86 78 Vss 0.0011176f
c87 77 Vss 0.00146569f
c88 76 Vss 0.00441934f
c89 71 Vss 0.00722904f
c90 67 Vss 0.00399277f
c91 62 Vss 0.00496845f
c92 57 Vss 0.135055f
c93 53 Vss 0.12803f
c94 31 Vss 0.215113f
c95 27 Vss 0.126125f
c96 25 Vss 0.0247918f
c97 9 Vss 1.22732f
c98 2 Vss 0.139046f
r99 111 114 0.1
r100 98 111 1.16709
r101 98 100 0.490235
r102 98 99 0.490235
r103 94 102 1.16709
r104 91 94 1.08364
r105 87 89 2.50071
r106 85 87 0.653045
r107 85 100 1.5949
r108 84 96 0.466409
r109 84 99 6.9631
r110 79 96 0.152298
r111 79 81 2.50071
r112 77 96 0.466409
r113 77 78 1.7116
r114 75 78 0.653045
r115 75 76 8.7525
r116 72 91 0.0685365
r117 72 74 1.45875
r118 71 76 0.652036
r119 71 74 8.7525
r120 67 89 1.16709
r121 62 81 1.16709
r122 55 57 4.53833
r123 52 114 0.0238214
r124 52 53 2.26917
r125 49 52 2.26917
r126 44 57 0.00605528
r127 43 53 0.00605528
r128 40 55 0.00605528
r129 39 49 0.00605528
r130 34 102 0.0476429
r131 32 34 0.326018
r132 32 34 0.1167
r133 31 35 0.652036
r134 31 34 6.7686
r135 27 102 0.357321
r136 25 34 0.326018
r137 25 27 0.40845
r138 13 44 3.8511
r139 13 40 3.8511
r140 9 13 15.4044
r141 9 43 3.8511
r142 9 13 15.4044
r143 9 39 3.8511
r144 6 67 0.185659
r145 4 62 0.185659
r146 2 35 3.8511
r147 1 27 3.44265
.ends

.subckt PM_G4_MAJ3_N2_BI 2 4 5 6 20 29 34 39 44 54 59 68 74 75 83 Vss
c58 83 Vss 4.27892e-19
c59 75 Vss 3.15444e-19
c60 74 Vss 7.27663e-19
c61 68 Vss 0.00155105f
c62 59 Vss 0.00147096f
c63 54 Vss 0.00139826f
c64 44 Vss 0.00152385f
c65 39 Vss 0.00577944f
c66 34 Vss 0.00175738f
c67 29 Vss 0.00439389f
c68 20 Vss 0.111942f
c69 5 Vss 0.111942f
c70 4 Vss 0.00143442f
r71 79 83 0.655813
r72 74 75 0.65228
r73 73 74 3.42052
r74 68 73 0.65409
r75 44 59 1.16709
r76 44 75 2.1395
r77 39 54 1.16709
r78 39 83 12.0712
r79 39 68 1.96931
r80 34 51 1.16709
r81 34 79 2.334
r82 29 51 0.1
r83 20 59 0.50025
r84 17 54 0.50025
r85 6 20 3.09255
r86 5 17 3.09255
r87 4 29 0.185659
r88 2 29 0.185659
.ends

.subckt PM_G4_MAJ3_N2_AI 2 4 7 11 31 37 43 46 51 60 69 Vss
c44 69 Vss 4.10597e-19
c45 60 Vss 0.00527726f
c46 51 Vss 0.00584502f
c47 46 Vss 0.00110084f
c48 43 Vss 0.00447686f
c49 37 Vss 0.127877f
c50 31 Vss 0.134503f
c51 7 Vss 1.21876f
c52 4 Vss 0.00143442f
r53 65 69 0.652036
r54 60 63 0.1
r55 51 63 1.16709
r56 51 69 13.7539
r57 46 65 2.58407
r58 43 46 1.16709
r59 36 60 0.0238214
r60 36 37 2.334
r61 33 36 2.20433
r62 29 31 4.53833
r63 26 37 0.00605528
r64 25 31 0.00605528
r65 22 33 0.00605528
r66 21 29 0.00605528
r67 11 26 3.8511
r68 11 22 3.8511
r69 7 11 15.4044
r70 7 25 3.8511
r71 7 11 15.4044
r72 7 21 3.8511
r73 4 43 0.185659
r74 2 43 0.185659
.ends

.subckt PM_G4_MAJ3_N2_B 1 2 3 4 13 14 24 42 46 49 54 59 64 69 77 78 84 91 96 97
+ Vss
c68 97 Vss 4.67818e-19
c69 96 Vss 0.00212566f
c70 91 Vss 9.32419e-19
c71 84 Vss 5.17496e-19
c72 78 Vss 3.17701e-19
c73 77 Vss 0.00357974f
c74 69 Vss 0.00148026f
c75 64 Vss 0.0010348f
c76 59 Vss 0.00464385f
c77 54 Vss 0.00163559f
c78 49 Vss 7.01001e-19
c79 46 Vss 5.25457e-19
c80 42 Vss 5.46753e-19
c81 24 Vss 0.111942f
c82 17 Vss 0.0247918f
c83 14 Vss 0.0349292f
c84 13 Vss 0.183407f
c85 4 Vss 0.111942f
c86 2 Vss 0.111095f
c87 1 Vss 0.118069f
r88 95 97 0.65409
r89 95 96 3.42052
r90 91 96 0.65228
r91 87 91 2.1006
r92 84 87 2.04225
r93 77 84 0.0685365
r94 77 78 10.3363
r95 73 78 0.652036
r96 54 69 1.16709
r97 54 97 2.00578
r98 49 64 1.16709
r99 49 87 0.0416786
r100 42 59 1.16709
r101 42 73 2.16729
r102 42 46 0.0530455
r103 36 59 0.238214
r104 33 69 0.50025
r105 24 64 0.50025
r106 22 36 0.262036
r107 17 36 0.326018
r108 17 22 0.05835
r109 14 36 6.7686
r110 13 36 0.326018
r111 13 36 0.1167
r112 9 14 0.652036
r113 4 33 3.09255
r114 3 24 3.09255
r115 2 22 3.09255
r116 1 9 3.1509
.ends

.subckt PM_G4_MAJ3_N2_C 2 4 12 17 20 25 51 Vss
c18 25 Vss 0.00550018f
c19 20 Vss 7.32915e-19
c20 17 Vss 0.00502472f
c21 12 Vss 0.00387713f
r22 25 51 1.78697
r23 20 51 8.27841
r24 17 25 1.16709
r25 12 20 1.16709
r26 4 17 0.185659
r27 2 12 0.185659
.ends

.subckt PM_G4_MAJ3_N2_Z 2 4 6 8 23 27 30 33 Vss
c30 30 Vss 0.00298505f
c31 27 Vss 0.00857889f
c32 23 Vss 0.00745393f
c33 8 Vss 0.00143442f
c34 6 Vss 0.00143442f
r35 33 35 6.04339
r36 30 33 4.95975
r37 27 35 1.16709
r38 23 30 1.16709
r39 8 27 0.185659
r40 6 23 0.185659
r41 4 27 0.185659
r42 2 23 0.185659
.ends

