* File: G4_MAJ3_N3.pex.netlist.pex
* Created: Fri Mar  4 11:51:04 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_MAJ3_N3_VDD 2 4 7 11 27 28 30 31 32 44 48 52 54 56 57 58 61 65 67
+ 69 70 73 77 79 80 90 95 Vss
c76 95 Vss 0.00472824f
c77 90 Vss 0.00466016f
c78 80 Vss 4.52364e-19
c79 79 Vss 4.28405e-19
c80 77 Vss 4.68316e-19
c81 73 Vss 0.00105057f
c82 70 Vss 8.64769e-19
c83 69 Vss 0.00576436f
c84 67 Vss 0.00145931f
c85 61 Vss 0.00146297f
c86 58 Vss 8.64769e-19
c87 57 Vss 0.00590519f
c88 56 Vss 0.0027558f
c89 54 Vss 0.0069447f
c90 52 Vss 0.00282697f
c91 48 Vss 0.00810125f
c92 44 Vss 0.0099068f
c93 32 Vss 0.0356247f
c94 31 Vss 0.10084f
c95 28 Vss 0.0356247f
c96 27 Vss 0.100978f
c97 11 Vss 0.376343f
c98 7 Vss 0.374237f
r99 77 95 1.16709
r100 75 77 2.16729
r101 73 90 1.16709
r102 71 73 2.16729
r103 69 75 0.652036
r104 69 70 10.1279
r105 65 67 1.167
r106 63 80 0.0828784
r107 63 65 0.656438
r108 59 79 0.0828784
r109 59 61 1.82344
r110 57 71 0.652036
r111 57 58 10.1279
r112 56 70 0.652036
r113 55 80 0.551426
r114 55 56 5.50157
r115 54 80 0.551426
r116 53 79 0.551426
r117 53 54 11.5033
r118 52 79 0.551426
r119 51 58 0.652036
r120 51 52 5.50157
r121 48 67 1.16709
r122 44 61 1.16709
r123 34 95 0.0476429
r124 32 34 1.45875
r125 31 38 0.652036
r126 31 34 1.45875
r127 30 90 0.0476429
r128 28 30 1.45875
r129 27 35 0.652036
r130 27 30 1.45875
r131 24 32 0.652036
r132 21 28 0.652036
r133 11 38 5.1348
r134 11 24 5.1348
r135 7 35 5.1348
r136 7 21 5.1348
r137 4 48 0.123773
r138 2 44 0.123773
.ends

.subckt PM_G4_MAJ3_N3_VSS 3 7 10 12 27 28 31 32 45 49 52 57 62 67 70 73 78 91 92
+ 93 94 95 104 114 115 117 Vss
c81 115 Vss 3.75522e-19
c82 114 Vss 3.75522e-19
c83 110 Vss 0.00128551f
c84 104 Vss 0.00368719f
c85 95 Vss 8.30816e-19
c86 94 Vss 0.00157211f
c87 93 Vss 8.30816e-19
c88 92 Vss 0.00157211f
c89 91 Vss 0.00860014f
c90 78 Vss 0.00407667f
c91 73 Vss 0.00419321f
c92 70 Vss 0.00352694f
c93 67 Vss 0.00278012f
c94 62 Vss 0.00185852f
c95 57 Vss 0.00149825f
c96 52 Vss 0.00105861f
c97 49 Vss 0.00997263f
c98 45 Vss 0.00798745f
c99 32 Vss 0.0350852f
c100 31 Vss 0.0994129f
c101 28 Vss 0.0350852f
c102 27 Vss 0.0994129f
c103 7 Vss 0.377882f
c104 3 Vss 0.379585f
r105 110 117 0.326018
r106 106 115 0.494161
r107 105 114 0.494161
r108 104 117 0.326018
r109 104 105 7.46046
r110 100 115 0.128424
r111 96 114 0.128424
r112 94 115 0.494161
r113 94 95 4.37625
r114 92 114 0.494161
r115 92 93 4.37625
r116 91 95 0.652036
r117 90 93 0.652036
r118 90 91 25.1739
r119 70 106 8.04396
r120 67 70 6.75193
r121 62 110 6.16843
r122 57 78 1.16709
r123 57 100 2.16729
r124 52 73 1.16709
r125 52 96 2.16729
r126 49 67 1.16709
r127 45 62 1.16709
r128 34 78 0.0476429
r129 32 34 1.45875
r130 31 38 0.652036
r131 31 34 1.45875
r132 30 73 0.0476429
r133 28 30 1.45875
r134 27 35 0.652036
r135 27 30 1.45875
r136 24 32 0.652036
r137 21 28 0.652036
r138 12 49 0.123773
r139 10 45 0.123773
r140 7 38 5.1348
r141 7 24 5.1348
r142 3 35 5.1348
r143 3 21 5.1348
.ends

.subckt PM_G4_MAJ3_N3_A 2 4 6 8 11 15 32 53 57 62 67 69 72 74 76 79 81 87 89 97
+ 100 109 Vss
c72 109 Vss 0.00544007f
c73 100 Vss 0.00497933f
c74 97 Vss 1.8079e-19
c75 94 Vss 7.63366e-19
c76 89 Vss 8.03875e-19
c77 87 Vss 8.73696e-19
c78 83 Vss 0.0024194f
c79 81 Vss 0.00445355f
c80 79 Vss 6.95023e-19
c81 76 Vss 0.00110877f
c82 75 Vss 0.00146569f
c83 74 Vss 0.00592189f
c84 69 Vss 0.00755424f
c85 67 Vss 0.0082356f
c86 62 Vss 0.00963114f
c87 57 Vss 0.135088f
c88 53 Vss 0.127963f
c89 32 Vss 0.217507f
c90 29 Vss 0.180502f
c91 27 Vss 0.0247918f
c92 11 Vss 1.44228f
c93 4 Vss 0.193588f
r94 109 112 0.1
r95 97 109 1.16709
r96 92 100 1.16709
r97 89 92 1.08364
r98 85 87 3.501
r99 84 97 0.0685365
r100 83 85 0.652036
r101 83 84 1.70882
r102 82 94 0.494161
r103 81 97 0.0685365
r104 81 82 7.46046
r105 77 94 0.128424
r106 77 79 3.501
r107 75 94 0.494161
r108 75 76 1.83386
r109 73 76 0.652036
r110 73 74 10.6697
r111 70 89 0.0685365
r112 70 72 1.41707
r113 69 74 0.652036
r114 69 72 8.79418
r115 67 87 1.16709
r116 62 79 1.16709
r117 55 57 4.53833
r118 52 112 0.0238214
r119 52 53 2.26917
r120 49 52 2.26917
r121 44 57 0.00605528
r122 43 53 0.00605528
r123 40 55 0.00605528
r124 39 49 0.00605528
r125 35 100 0.0476429
r126 33 35 0.326018
r127 33 35 0.1167
r128 32 36 0.652036
r129 32 35 6.7686
r130 29 100 0.357321
r131 27 35 0.326018
r132 27 29 0.40845
r133 15 44 5.1348
r134 15 40 5.1348
r135 11 15 17.9718
r136 11 43 5.1348
r137 11 15 17.9718
r138 11 39 5.1348
r139 8 67 0.123773
r140 6 62 0.123773
r141 4 36 5.1348
r142 2 29 4.72635
.ends

.subckt PM_G4_MAJ3_N3_BI 2 4 6 8 21 29 32 37 42 52 57 66 72 73 81 Vss
c58 81 Vss 5.35611e-19
c59 73 Vss 2.99365e-19
c60 72 Vss 7.27663e-19
c61 66 Vss 0.00156866f
c62 57 Vss 0.00147096f
c63 52 Vss 0.00166247f
c64 42 Vss 0.00166542f
c65 37 Vss 0.005464f
c66 32 Vss 0.00219142f
c67 29 Vss 0.00514303f
c68 21 Vss 0.166484f
c69 6 Vss 0.166484f
c70 4 Vss 0.00143493f
r71 77 81 0.655813
r72 72 73 0.65228
r73 71 72 3.42052
r74 66 71 0.65409
r75 42 57 1.16709
r76 42 73 2.1395
r77 37 52 1.16709
r78 37 81 12.0712
r79 37 66 1.96931
r80 32 49 1.16709
r81 32 77 3.25093
r82 29 49 0.1
r83 21 57 0.50025
r84 18 52 0.50025
r85 8 21 4.37625
r86 6 18 4.37625
r87 4 29 0.123773
r88 2 29 0.123773
.ends

.subckt PM_G4_MAJ3_N3_AI 2 4 7 11 31 37 43 46 51 60 69 Vss
c43 69 Vss 4.20376e-19
c44 60 Vss 0.00685099f
c45 51 Vss 0.00640177f
c46 46 Vss 9.78141e-19
c47 43 Vss 0.00452529f
c48 37 Vss 0.12791f
c49 31 Vss 0.134433f
c50 7 Vss 1.43419f
c51 4 Vss 0.00143493f
r52 65 69 0.652036
r53 60 63 0.1
r54 51 63 1.16709
r55 51 69 13.7539
r56 46 65 3.501
r57 43 46 1.16709
r58 36 60 0.0238214
r59 36 37 2.334
r60 33 36 2.20433
r61 29 31 4.53833
r62 26 37 0.00605528
r63 25 31 0.00605528
r64 22 33 0.00605528
r65 21 29 0.00605528
r66 11 26 5.1348
r67 11 22 5.1348
r68 7 11 17.9718
r69 7 25 5.1348
r70 7 11 17.9718
r71 7 21 5.1348
r72 4 43 0.123773
r73 2 43 0.123773
.ends

.subckt PM_G4_MAJ3_N3_B 2 4 6 8 16 17 26 38 42 45 50 55 60 65 73 74 80 87 92 93
+ Vss
c63 93 Vss 4.8362e-19
c64 92 Vss 0.00212566f
c65 87 Vss 9.92513e-19
c66 80 Vss 6.85439e-19
c67 74 Vss 5.17886e-19
c68 73 Vss 0.00375307f
c69 65 Vss 0.00163151f
c70 60 Vss 0.00118605f
c71 55 Vss 0.00132948f
c72 50 Vss 0.00183658f
c73 45 Vss 7.01705e-19
c74 38 Vss 0.00124968f
c75 26 Vss 0.166484f
c76 20 Vss 0.0247918f
c77 17 Vss 0.0349747f
c78 16 Vss 0.185505f
c79 8 Vss 0.166484f
c80 4 Vss 0.180512f
c81 2 Vss 0.192541f
r82 91 93 0.65409
r83 91 92 3.42052
r84 87 92 0.65228
r85 83 87 2.1006
r86 80 83 2.04225
r87 73 80 0.0685365
r88 73 74 10.3363
r89 69 74 0.652036
r90 50 65 1.16709
r91 50 93 2.00578
r92 45 60 1.16709
r93 45 83 0.0416786
r94 38 55 1.16709
r95 38 69 1.66714
r96 38 42 0.0833571
r97 36 55 0.238214
r98 33 65 0.50025
r99 26 60 0.50025
r100 24 36 0.262036
r101 20 36 0.326018
r102 20 24 0.05835
r103 17 36 6.7686
r104 16 36 0.326018
r105 16 36 0.1167
r106 13 17 0.652036
r107 8 33 4.37625
r108 6 26 4.37625
r109 4 24 5.07645
r110 2 13 5.1348
.ends

.subckt PM_G4_MAJ3_N3_C 2 4 12 17 20 25 51 Vss
c18 25 Vss 0.0055264f
c19 20 Vss 6.62222e-19
c20 17 Vss 0.00968607f
c21 12 Vss 0.00811861f
r22 25 51 1.89637
r23 20 51 8.169
r24 17 25 1.16709
r25 12 20 1.16709
r26 4 17 0.123773
r27 2 12 0.123773
.ends

.subckt PM_G4_MAJ3_N3_Z 2 4 6 8 23 27 30 33 Vss
c31 30 Vss 0.00306612f
c32 27 Vss 0.00807893f
c33 23 Vss 0.00720868f
c34 8 Vss 0.00143493f
c35 6 Vss 0.00143493f
r36 33 35 11.4616
r37 30 33 1.37539
r38 27 35 1.16709
r39 23 30 1.16709
r40 8 27 0.123773
r41 6 23 0.123773
r42 4 27 0.123773
r43 2 23 0.123773
.ends

